US07816557B2
Step E. Racemic 3-{4-[1-(2,4,6-tri-t-butyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester
To a solution of racemic 3-(4-{5,5,5-Trifluoro-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-pentyl}-benzoylamino)-propionic acid methyl ester (0.300 g, 0.550 mmol) in toluene (3.0 mL) is added palladium tetrakis triphenylphosphine (0.0316 g, 0.030 mmol), 2-bromo-1,3,5-tri-tert-butyl-benzene (0.353 g, 1.09 mmol), and potassium fluoride (0.063 g, 1.09 mmol). The reaction is purged with nitrogen three times and heated to reflux under nitrogen. At reflux, water (1.0 mL) is added to the reaction and the reaction is allowed to reflux under nitrogen. The reaction is monitored by HPLC, and upon completion, allowed to cool to room temperature. The reaction is diluted with ethyl acetate and celite is added, followed by water. This mixture is then filtered through a pad of celite. The solution is poured into a separatory funnel and the organic layer is washed with water and brine. The organic layer is dried over anhydrous sodium sulfate and concentrated. The product is purified by flash column chromatography (0.333 g, 0.500 mmol).

reactant | racemic 3-(4-{5,5,5-Trifluoro-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-pentyl}-benzoylamino)-propionic acid methyl ester | 0.550 mmol, 0.300 g | COC(CCNC(C1=CC=C(C=C1)C(CCCC(F)(F)F)OC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)=O | C28H35BF3NO6
reactant | 2-bromo-1,3,5-tri-tert-butyl-benzene | 1.09 mmol, 0.353 g | BrC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C(C)(C)C | C18H29Br
reactant | potassium fluoride | 1.09 mmol, 0.063 g | [F-].[K+]
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | Racemic 3-{4-[1-(2,4,6-tri-t-butyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCC(F)(F)F)OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C(C)(C)C)=O)=O | C34H48F3NO4
